US07576063B2
4-Benzyl-5-(4-benzyloxyphenyl)-3-(β-D-glucopyranosyloxy)-1-isopropyl-1H-pyrazole
To a suspension of 4-benzyl-3-(β-D-glucopyranosyloxy)-5-(4-hydroxyphenyl)-1-isopropyl-1H-pyrazole (0.02 g) and potassium carbonate (0.017 g) in N,N-dimethylformamide (20 mL) was added benzyl bromide at room temperature. The reaction mixture was stirred at 50° C. for 3 hours. After the reaction mixture was acidified by adding a hydrochloric acid aqueous solution (1 mol/L), the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give the title compound.

reactant | 4-benzyl-3-(β-D-glucopyranosyloxy)-5-(4-hydroxyphenyl)-1-isopropyl-1H-pyrazole | 0.02 g | C(C1=CC=CC=C1)C=1C(=NN(C1C1=CC=C(C=C1)O)C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H30N2O7
reactant | potassium carbonate | 0.017 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-Benzyl-5-(4-benzyloxyphenyl)-3-(β-D-glucopyranosyloxy)-1-isopropyl-1H-pyrazole | C(C1=CC=CC=C1)C=1C(=NN(C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C32H36N2O7
